US07557138B2
4-(3-Cyanopropoxy)-7H-furo[3,2-g][1]benzopyran-7-on
800 mg (3.956 mmol) of 5-hydroxypsoralen and 0.7 ml (655.5 mg, 6.33 mmol) of 4-chlorobutyronitrile were refluxed in 50 ml of 2-butanone in the presence of an excess (2.6 g) of anhydrous potassium carbonate and catalytic amounts of potassium iodide for 48 hours. The progress of the reaction was monitored by thin layer chromatography. After 48 hours the reaction mixture was concentrated under reduced pressure. The residual oily layer was cooled, diluted with water and acidified with concentrated hydrochloric acid to pH 1. The slurry was stirred for 15-20 min and then filtered. The solids were washed with water to neutral pH, dried bysuction and then further washed with petroleum ether. The dried solids were dissolved in refluxing methanol, treated with charcoal and recrystallized from methanol.

reactant | 5-hydroxypsoralen | 3.956 mmol, 800 mg | C1=COC=2C1=C(C3=C(C2)OC(=O)C=C3)O | C11H6O4
reactant | 4-chlorobutyronitrile | 6.33 mmol, 0.7 ml, 655.5 mg | ClCCCC#N | C4H6ClN
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 4-(3-Cyanopropoxy)-7H-furo[3,2-g][1]benzopyran-7-on | C(#N)CCCOC1=C2C(=CC3=C1C=CC(O3)=O)OC=C2 | C15H11NO4
